Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Lisinopril
 
Attending: ___.
 
Chief Complaint:
abdominal pain 
mental status change
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ F with pmhx afib, CVA x 2, dementia, hypothyroidism who was 
originally admitted ___ to the SICU after noting abdominal pain 
x 4d and decreased responsiveness. In the SICU she was found to 
have have thrombus in L atrium, left renal artery, and SMA. 
Radiographic L renal infarction, but bowel "looked good, no sign 
peritonitis."  
.  
She was managed conservatively given lactate was relatively low 
and interpreted as no evidence of mesenteric ischemia, with NGT, 
heparin gtt, and pain control. Decision was made by family and 
pt not to pursue aggressive intervention.  
.  
Pt was started on anticoagulation and empiric antibiotics and 
was going to be transferred to the medicine floor when she was 
noted to be anuric and unresponsive to verbal stimuli. ___ 
ABG=7.5/28/100. Per report, this family was called to discuss 
goals of care. They essentially do not want anything aggressive 
done including further scans and want her to be comfortable but 
did not want to completely withdraw care at this time.  
.  
Pt transferred from MICU service to medical service for ongoing 
management of SMA infarction, ___, mental status changes 
felt likely ___ repeat CVA, and ?PNA (on levaquin/flagyl for 
PNA, not for abdominal process per MICU team)  
 
Past Medical History:
1. CVA - x 2, most recently ___.  
2. Atrial fibrillation, on coumadin.  
3. Hyperlipidemia  
4. Hypothyroidism  
5. Dementia - per daughter at baseline pt is able to converse.  

 
Social History:
___
Family History:
No history of stroke, diabetes, coronary artery disease.
 
Physical Exam:
PE: General: unresponsive to sternal rub  
VS: 99.3 HR 97(97-146) 132/91(108-181/70-106)  
HEENT: NCAT, anicteric, no injections, MMM  
Neck: no LAD or thyromegaly  
Chest: tacchy, nl s1s2 no mgr  
lungs: clear anteriorly  
ABD: +bs, softly distended, no masses, nontender  
Ext: no cce  
Neuro: responsive to pain with withdrawl, cold  

 
Pertinent Results:
___ 08:16PM   TYPE-ART PO2-100 PCO2-28* PH-7.50* TOTAL 
CO2-23 BASE XS-0
___ 08:16PM   LACTATE-1.0
___ 06:01PM   PTT-133.3*
___ 09:03AM   ___ PO2-129* PCO2-34* PH-7.46* TOTAL 
CO2-25 BASE XS-1 COMMENTS-GREEN TOP 
___ 09:03AM   LACTATE-1.4
___ 09:03AM   freeCa-1.07*
___ 08:52AM   ___ PTT-150* ___
___ 07:00AM   GLUCOSE-132* UREA N-17 CREAT-1.2* SODIUM-135 
POTASSIUM-4.3 CHLORIDE-101 TOTAL CO2-21* ANION GAP-17
___ 07:00AM   CALCIUM-8.6 PHOSPHATE-2.1* MAGNESIUM-2.1
___ 07:00AM   WBC-22.6* RBC-4.31 HGB-11.0* HCT-34.1* 
MCV-79* MCH-25.7* MCHC-32.4 RDW-14.6
___ 07:00AM   NEUTS-84* BANDS-3 LYMPHS-10* MONOS-3 EOS-0 
BASOS-0 ___ MYELOS-0
___ 07:00AM   HYPOCHROM-1+ ANISOCYT-NORMAL POIKILOCY-1+ 
MACROCYT-NORMAL MICROCYT-NORMAL POLYCHROM-1+ OVALOCYT-1+ 
TARGET-1+ BURR-OCCASIONAL ACANTHOCY-OCCASIONAL
___ 07:00AM   PLT COUNT-345
___ 10:19PM   ___ PTT-26.3 ___
___ 08:14PM   LACTATE-3.8*
___ 08:00PM   GLUCOSE-167* UREA N-22* CREAT-1.5* SODIUM-134 
POTASSIUM-4.1 CHLORIDE-94* TOTAL CO2-24 ANION GAP-20
___ 08:00PM   estGFR-Using this
___ 08:00PM   ALT(SGPT)-46* AST(SGOT)-59* CK(CPK)-29 ALK 
PHOS-177* AMYLASE-55 TOT BILI-0.7
___ 08:00PM   LIPASE-16
___ 08:00PM   CK-MB-NotDone cTropnT-<0.01
___ 08:00PM   ALBUMIN-3.9 CALCIUM-10.4* PHOSPHATE-2.5* 
MAGNESIUM-1.5*
___ 08:00PM URINE  HOURS-RANDOM
___ 08:00PM URINE  GR HOLD-HOLD
___ 08:00PM   WBC-23.4*# RBC-5.15 HGB-13.4 HCT-40.7 MCV-79* 
MCH-25.9* MCHC-32.8 RDW-14.7
___ 08:00PM   NEUTS-78* BANDS-4 LYMPHS-10* MONOS-7 EOS-0 
BASOS-0 ___ METAS-1* MYELOS-0
___ 08:00PM URINE  ___ 08:00PM URINE  ___ BACTERIA-FEW YEAST-NONE 
___ 08:00PM URINE  BLOOD-TR NITRITE-NEG PROTEIN-500 
GLUCOSE-TR KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 08:00PM URINE  COLOR-Yellow APPEAR-Clear SP ___
.
.
.
STUDIES:
* ___ CT abd/pelvis: Thrombus in the left atrium. Thrombosis of 
the proximal superior mesenteric artery with distal 
reconstitution probably through collateral flow. No evidence of 
small or large bowel wall thickening or adjacent inflammatory 
change to suggest ischemia. Thrombosis of the left renal artery 
and associated infarction of the left kidney. Wedge compression 
deformities of L1 and L3 are probably chronic.  
* ___ CXR: NG tube in good position. Stable cardiomegaly, mild 
left lower lobe atelectasis. No evidence of pneumonia or CHF.  
* ___ Head CT: No acute intracranial hemorrhage or mass effect. 
Overall similar appearance of the brain compared to ___ with 
multiple areas of old infarction demonstrated. Please note that 
MR with diffusion-weighted imaging is more sensitive for 
evaluation of acute infarction if this is a significant clinical 
concern. 

 
Brief Hospital Course:
a/p:  ___ yo female with afib, CVA x2, dementia, now with SMA 
clot, ___, non-enhancing kidney on CT and anuria with 
unresponsiveness.
.
# abdominal pain/hypotension - pt admitted to the surgical 
service, and found to have thrombus in left renal artery (with 
complete left renal infarction), and superior mesenteric artery. 
 She had radiographic L renal infarction.  serial lactates were 
trending down, and pt was without peritonitis.  She was treated 
conservatively with antibiotics and NGT decompression and 
heparin gtt.  she was not felt to require surgical intervention. 
 her abdominal pain resolved.  She was awaiting transfer to the 
medical service when her mental status acutely declined as 
below.  
. 
# Altered mental status: Per family, patient's mental status has 
been declining ever since her last CVA.  Admission CT HEAD 
showed no acute bleeding, but could not exclude embolic event.  
She has known clot in SMA, left renal artery and LEFT atrial 
thrombus (seen on CT superior cuts of CT abd/pelvis) despite 
anticoagulation with coumadin.  She was placed on heparin during 
this hospitalization for concern for SMA and renal artery 
thrombosis.  However on ___ pt's mental status acute declined.  
She was no longer able to communicate reliable.  Concern was for 
recurrent stroke given her history of atrial fibrillation and 
left atrial thrombus as above, in spite of heparin 
anticoagulation.  Given her acute mental status decline, despite 
anticoagulation, decision was made with family to change goals 
of care to DNR/DNI.  Pt's mental status failed to improve after 
transfer to the MICU, and given goals of care did not include 
BIPAP or invasive lines or procedures, she was ___ to the 
medical floor.  Her mental status remained poor.  She was 
continued on empiric antibiotics for concern for PNA, though CXR 
was unremarkable.  
.
On ___, mental status had failed to improve.  After extensive 
discussion with both pt's HCP ___ ___ and her 
son ___ ___, decision was made to change 
goals of care to comfort measures only, as it was felt that she 
had likely suffered a recurrent stroke in spite of heparin 
anticoagulation.  Family clearly did not desire PEG tube 
placement, and agree that further anticoagulation would not 
likely alter her prognosis.  Her coumadin was discontinued.  Her 
urine output declined quickly.  She was evaluated by the pain 
and palliative care service, placed on a regimen or oral 
morphine elixir prn, though she did not complain of signficant 
pain.  she was placed on scopolamine patch to manage secretions. 
 
. 
Arrangements were made to transfer her to an ___ facility. 
. 
# Atrial fibrillation:  h/o atrial fibrillation with known left 
atrial thrombus despite coumadin, pt was treated with heparin 
gtt and rate controlled with metoprolol, these were discontinued 
given her goals of care as above. 
.
# Oliguria: likely due to poor po intake, and poor prognosis as 
above.  decision was made not to pursue PEG tube feeding or 
intravenous hydration as it was not felt likely to alter her 
prognosis.  Over the course of ___ her urine output continue 
to decline to neglible levels.
.
# Hypothyroidism: pt initialy continued on 75 mcg levothyroxine, 
this was d/c'd at discharge given goals of care. 
.
# Contact: ___ ___ (health care proxy) and her 
son ___ ___ ___ speaking). 
.
# CODE STATUS:  pt is DNR/DNI, she is comfort measures only. 
.
# DISPO: pt was discharged to ___ facility ___ after 
discussion with ___ at ___ who confirmed discussion with 
his mother (HCP) at 3PM and confirmed that she will meet pt at 
the ___ facility. 
 
Medications on Admission:
(per most recent discharge summary)
1. Albuterol Sulfate 0.083 % (0.83 mg/mL) Solution Sig: One (1)  

Inhalation Q4H (every 4 hours) as needed.  
2. Ipratropium Bromide 0.02 % Solution Sig: One (1) Inhalation  
Q6H (every 6 hours) as needed.  
3. Mirtazapine 15 mg Tablet Sig: One (1) Tablet PO HS (at  
bedtime).  
4. Atorvastatin 40 mg Tablet Sig: Two (2) Tablet PO DAILY  
(Daily).  
5. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a  
day) as needed.  
6. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2)  
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed.  
7. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1)  
Tablet, Chewable PO TID (3 times a day) as needed.  
8. Levothyroxine 75 mcg Tablet Sig: One (1) Tablet PO DAILY  
(Daily).  
9. Metoprolol Tartrate 25 mg Tablet Sig: Three (3) Tablet PO TID 
 
(3 times a day).  
10. Warfarin 2.5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
 
11. Valsartan 80 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
12. Levetiracetam 500 mg Tablet Sig: Two (2) Tablet PO BID (2  
times a day).  
13. Protonix 40 mg Tablet, Delayed Release (E.C.) Sig: One (1)  
Tablet, Delayed Release (E.C.) PO once a day.  
14. Heparin (Porcine) in D5W 100 unit/mL Parenteral Solution  
Sig: 650 units/hr Intravenous ASDIR (AS DIRECTED).  
15. Docusate Sodium 50 mg/5 mL Liquid Sig: One Hundred (100) mg  


 
Discharge Medications:
1. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed.  
2. Docusate Sodium 50 mg/5 mL Liquid Sig: One (1)  PO BID (2 
times a day) as needed.  
3. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed.  
4. Acetaminophen 650 mg Suppository Sig: One (1) Suppository 
Rectal Q6H (every 6 hours) as needed for fever.  
5. Hyoscyamine Sulfate 0.125 mg Tablet, Sublingual Sig: One (1) 
Tablet, Sublingual Sublingual QID (4 times a day).  
6. Morphine 10 mg/5 mL Solution Sig: ___  PO Q1HR PRN () as 
needed for titrate to pt comfort (air hunger).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
stroke 
superior mesenteric artery thrombosis
renal artery thrombosis

 
Discharge Condition:
poor, comfort measures only, being discharged
 
Discharge Instructions:
pt was discharged with plan for hospice care.
 
Followup Instructions:
___